US05658923
Triethylamine 0.43 ml was added in a methylene chloride 20 ml solution of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 0.49 g, and stirred at 0° C. for 45 min. Cyclopentyl acetic acid 0.36 ml and WSC 0.59 g were added therein, then the reaction mixture was gradually changed to room temperature and stirred for 24 hours. The reaction mixture was washed with 10% sodium hydroxide and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (IS)-3-cyclopentylacetyl-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 30 ml solution of lithium aluminum hydride 0.19 g and refluxed for 1.5 hours. The reaction mixture was cooled, then added ether, water and 10% aqueous sodium hydroxide thereto, and filtered the insoluble material. The filtrate was extracted with ether and dried by anhydrous sodium sulfate. After filtering the drying agent, a residue obtained by concentrating the filtrate in vacuo was purified by means of flash column chromatography (Merck, silica gel 60: 230-600 mesh, chloroform-chloroform:acetone=20:1) to obtain the product.

reactant | Triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 0.49 g | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | Cyclopentyl acetic acid | 0.36 ml | C1(CCCC1)CC(=O)O | C7H12O2
reactant | WSC | 0.59 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (IS)-3-cyclopentylacetyl-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C1(CCCC1)CC(=O)N1C[C@]2(CCC(C1)C2(C)C)C | C17H29NO
